US05495020
Employing ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-ethoxyacrylate (5.0 g) and 2,4-difluoroaniline (2.02 g), the procedure of Reference Example 21 is repeated to give ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-(2,4-difluorophenyl)aminoacrylate, which is then treated with 60% sodium hydride as in Reference Example 22 to give ethyl 1-(2,4-difluorophenyl)-5-methyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (4.6 g), as pale yellow prisms (recrystallized from dichloromethane--n-hexane), m.p. 156°-157.5° C.

reactant | ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-ethoxyacrylate | 5.0 g | CC1=C(C(=O)C(C(=O)OCC)=COCC)C(=C(C(=C1F)F)F)F | C15H14F4O4
reactant | 2,4-difluoroaniline | 2.02 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
product | ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-(2,4-difluorophenyl)aminoacrylate | CC1=C(C(=O)C(C(=O)OCC)=CNC2=C(C=C(C=C2)F)F)C(=C(C(=C1F)F)F)F | C19H13F6NO3
